US09260427B2
Prepared using General Procedure 5: To a solution of (S)-4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoic acid, INT-1 (10.0 mg, 0.026 mmol) in anhydrous DMF (1 mL) was added HOBt (5.27 mg, 0.39 mmol) and EDC (7.48 mg, 0.39 mmol). After stirring for 2 h, (Z)-4-(heptyloxy)-N′-hydroxybenzimidamide (9.76 mg, 0.39 mmol) was added. The reaction mixture was stirred at room temperature for 2 h, partitioned between saturated aqueous NaHCO3 (5 ml) and EA (5 mL), and concentrated under reduced pressure to afford the intermediate (5)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(((4-(heptyloxy)benzimidamido) oxy)carbonyl)phenyl)propanoate. The intermediate was dissolved in DMF (1 mL) and heated to 100° C. for 18 h. The reaction mixture was cooled to room temperature and partitioned between EA (5 mL) and saturated aqueous NaHCO3 (5 mL). The organic layer was extracted with water (2×5 mL) and brine (5 mL). The organic layer was dried over MgSO4 and concentrated. The brown oil was purified by preparative HPLC to afford 4.5 mg (29%) of (5)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(3-(4-(heptyloxy)phenyl)-1,2,4-oxadiazol-5-yl)phenyl)propanoate. LCMS-ESI (m/z) calculated for C36H43N3O5: 597.3; no m/z observed, tR=12.75 min (Method 2). 1H NMR (400 MHz, DMSO) δ 8.85 (d, J=8.0 Hz, 1H), 8.09 (d, J=8.3 Hz, 2H), 8.00 (d, J=8.9 Hz, 2H), 7.74 (d, J=8.5 Hz, 2H), 7.59 (d, J=8.4 Hz, 2H), 7.48 (d, J=8.6 Hz, 2H), 7.12 (d, J=8.9 Hz, 2H), 4.87-4.56 (m, 1H), 4.06 (t, J=6.5 Hz, 2H), 3.67 (s, 3H), 3.32-3.13 (m, 4H), 1.74 (dd, J=14.2, 6.5 Hz, 2H), 1.51-1.37 (m, 2H), 1.33 (s, 4H), 1.26 (d, J=20.2 Hz, 9H), 0.88 (t, J=6.9 Hz, 3H). 13C NMR (101 MHz, DMSO) δ 175.00, 171.91, 167.89, 166.27, 161.21, 154.37, 143.68, 130.78, 130.30, 128.76, 127.80, 127.18, 125.07, 121.69, 118.21, 115.07, 67.72, 53.61, 52.05, 36.15, 34.60, 31.20, 30.87, 28.54, 28.39, 25.40, 22.02, 13.93.

reactant | (S)-4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoic acid | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C(=O)O)C=C2)C(=O)OC)C=C1 | C22H25NO5
reactant | HOBt | 0.39 mmol, 5.27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.39 mmol, 7.48 mg
reactant | (Z)-4-(heptyloxy)-N′-hydroxybenzimidamide | 0.39 mmol, 9.76 mg | C(CCCCCC)OC1=CC=C(/C(/N)=N/O)C=C1 | C14H22N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (5)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(((4-(heptyloxy)benzimidamido) oxy)carbonyl)phenyl)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C(=O)ONC(C2=CC=C(C=C2)OCCCCCCC)=N)C=C1 | C36H45N3O6
